* Z:\home\srussell\projects\active\ProxLamp\sim\ultrasonic.asc
C1 N001 N002 2.4n V=50 Irms=0 Rser=1k Lser=0
L1 N001 N002 300µ Ipk=0.18 Rser=5.42 Rpar=0 Cpar=0
V1 N001 0 5
V2 N004 0 PULSE(0 5 0 1u 1u {P/2} {P})
Q1 N003 N005 0 0 2N3904
D1 N002 N003 1N914
R1 N005 N004 3.3k
R2 N001 N004 10k
.model D D
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.bjt
.tran 500u startup
.step param P 5u 30u 1u
.backanno
.end
